US04388233
7-(Boc-L-leucinamido)-3-phenylcoumarin
To a solution of 1.16 g (5 mmol) of Boc-L-leucine and 0.70 ml (5 mmol) of triethylamine in 12 mL of tetrahydrofuran (dried over sodium/lead alloy) at -15° was added 0.66 mL (5 mmol) of i-butyl chloroformate. After 10 min., 1.19 g (5 mmol) of 7-amino-3-phenylcoumarin suspended in 6 mL of tetrahydrofuran was added. The mixture was stirred at -15° for 30 min. and then overnight at room temperature. The reaction mixture was then reduced to dryness on a rotary evaporator at 1.6 kPa and 60°. The residue was taken up in 100 mL of ethyl acetate, washed twice with 25-mL portions of 1 N aqueous sodium bicarbonate and twice with 25-mL portions of saturated sodium chloride, dried over anhydrous magnesium sulfate, filtered, and evaporated. The residue was dried overnight at room temperature and 3 Pa to yield 1.91 g. (84.8%) of crude product as a yellow foam which was purified by chromatography on a silica gel column eluted first with methylene chloride and then with 5% methanol in methylene chloride. Product recovery was 66.5%.

reactant | Boc-L-leucine | 5 mmol, 1.16 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | triethylamine | 5 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | i-butyl chloroformate | 5 mmol, 0.66 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 7-amino-3-phenylcoumarin | 5 mmol, 1.19 g | NC1=CC=C2C=C(C(OC2=C1)=O)C1=CC=CC=C1 | C15H11NO2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 7-(Boc-L-leucinamido)-3-phenylcoumarin | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)NC1=CC=C2C=C(C(OC2=C1)=O)C1=CC=CC=C1 | C26H30N2O5
